US07008957B2
11d) 2-Trimethylsilanylethyl (S)-4-(2-tert-butoxycarbonylamino-2-carboxypent-4-en-yl)-piperidine-1-carboxylate
110 ml of ammonia were condensed at −78° C. 1 g of sodium was added in 3 portions at intervals each of 10 min, and the mixture was stirred for 20 min. Then, at −60° C., a solution of 2.76 g of tert-butyl (3S,5S,6R)-3-allyl-2-oxo-5,6-diphenyl-3-[1-(2-trimethylsilanylethoxycarbonyl)piperidin-4-ylmethyl]morpholine-4-carboxylate and 2.6 ml of ethanol in 50 ml of THF was added dropwise. The mixture was stirred at −45° C. for 1.5 h and the reaction was stopped by adding solid ammonium chloride until the blue color disappeared. The ammonia was then allowed to evaporate off, and 300 ml of water were added to the residue. The THF was removed in vacuo. The aqueous was adjusted to pH 2 with 1 N HCl and extracted 3 times with 200 ml of ethyl acetate each time. The combined organic phases were dried with MgSO4. The solvents were removed in vacuo, and the residue was chromatographed on silica gel.

reactant | ammonia | 110 ml | N | H3N
reactant | sodium | 1 g | [Na] | Na
reactant | tert-butyl (3S,5S,6R)-3-allyl-2-oxo-5,6-diphenyl-3-[1-(2-trimethylsilanylethoxycarbonyl)piperidin-4-ylmethyl]morpholine-4-carboxylate | 2.76 g | C(C=C)[C@]1(N([C@H]([C@H](OC1=O)C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC(C)(C)C)CC1CCN(CC1)C(=O)OCC[Si](C)(C)C | C36H50N2O6Si
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | ethanol | 2.6 ml | C(C)O | C2H6O
product | 2-Trimethylsilanylethyl (S)-4-(2-tert-butoxycarbonylamino-2-carboxypent-4-en-yl)-piperidine-1-carboxylate | C(C)(C)(C)OC(=O)N[C@](CC1CCN(CC1)C(=O)OCC[Si](C)(C)C)(CC=C)C(=O)O | C22H40N2O6Si
